US07405230B2
3-(tert-Butyldimethylsilyloxy)-1-(4-toluenesulfonyloxy)cyclopentane
3-(tert-Butyldimethylsilyloxy)cyclopentanol (4.8 g, 0.022 mol) and 4.22 g (0.022 mol) of tosyl chloride were mixed with 45 mL of pyridine and stinted at room temperature over night. TLC revealed the completion of the reaction. The pyridine was removed in vacuo and the residue was dissolved in ethyl acetate, washed with 1 N HCl and brine, and dried over Na2SO4. The filtrate was concentrated under vacuum to dryness to obtain 8.0 g of crude desired product as a light pink residue. The crude product was purified over SiO2 using 3% EtOAc in hexanes as eluant to give two lots material. The first lot contained 2.50 g of product approximately 90% pure. The second lot contained 2.66 g of desired product with greater than 98% purity. The combined yield was approximately 60%.

reactant | 3-(tert-Butyldimethylsilyloxy)cyclopentanol | 0.022 mol, 4.8 g | [Si](C)(C)(C(C)(C)C)OC1CC(CC1)O | C11H24O2Si
reactant | tosyl chloride | 0.022 mol, 4.22 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
solvent | pyridine | 45 mL | N1=CC=CC=C1 | C5H5N
product | 3-(tert-Butyldimethylsilyloxy)-1-(4-toluenesulfonyloxy)cyclopentane | 8.0 g | [Si](C)(C)(C(C)(C)C)OC1CC(CC1)OS(=O)(=O)C1=CC=C(C=C1)C | C18H30O4SSi
